US04631274
To a solution of benzhydryl 7-t-butoxycarbonylamino-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate (5.0 g) in acetonitrile (50 ml) was added p-toluenesulfonic acid monohydrate (3.23 g). After stirring at 35° C. for 50 minutes, the mixture was poured into a saturated aqueous solution of sodium chloride, adjusted to pH 7.5 with 5% aqueous solution of sodium bicarbonate and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure. The residue as triturated with n-hexane to give benzhydryl 7-amino-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate (2.50 g)

reactant | benzhydryl 7-t-butoxycarbonylamino-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate | 5.0 g | C(C)(C)(C)OC(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H27ClN2O5S
reactant | p-toluenesulfonic acid monohydrate | 3.23 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium chloride | [Cl-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | benzhydryl 7-amino-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate | 2.50 g | NC1[C@@H]2N(C(=C(CS2)\C=C\Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H19ClN2O3S
